US04734430
A solution of 14.5 g of 1,4,5,6-tetrahydro-3,6-dimethylbenzo[1,2-c:3,4-c']dipyrazole in 50 ml of dimethylformamide was added to an ice-cold stirred suspension of 2.4 g of sodium hydride in 50 ml of dimethylformamide. The reaction was stirred at 0° C. for 20 minutes and then a solution of 6.3 ml of iodomethane in 15 ml of dimethylformamide was added dropwise. The mixture was allowed to come to room temperature and stirred for 2 hours. The solvent was evaporated under reduced pressure and the residue partitioned between dichloromethane and water. The aqueous layer was extracted exhaustively with dichloromethane and the combined dichloromethane extracts were dried over magnesium sulfate and concentrated under reduced pressure. The residue was flash chromatographed (7.5% 2-propanol in dichloromethane) to give crude product. This crude mixture was dissolved in ethyl ether and acidified with ethereal hydrogen chloride. The cream color precipitate which formed was recrystallized from 2-butanol to give 1,4,5,6- tetrahydro-1,3,6-trimethylbenzo[1,2-c:3,4-c']dipyrazole monohydrochloride as light-yellow granules (20% yield) melting at about 252°-254° C.

reactant | 1,4,5,6-tetrahydro-3,6-dimethylbenzo[1,2-c:3,4-c']dipyrazole | 14.5 g | CC=1C2=C(NN1)C1=C(N(N=C1)C)CC2 | C10H12N4
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | iodomethane | 6.3 ml | IC | CH3I
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1,4,5,6- tetrahydro-1,3,6-trimethylbenzo[1,2-c:3,4-c']dipyrazole monohydrochloride | 20% yield | Cl.CN1N=C(C2=C1C1=C(N(N=C1)C)CC2)C | InChI=1S/C11H14N4.ClH/c1-7-8-4-5-10-9(6-12-14(10)2)11(8)15(3)13-7;/h6H,4-5H2,1-3H3;1H
